US07989444B2
N,N-dimethyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepin-2-amine dihydrochloride
The title compound was prepared in analogy to General Procedure 1 from N,N-dimethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepin-2-amine (0.18 mmol) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline and was obtained as a white slightly hygroscopic solid (0.045 mmol).

reactant | N,N-dimethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepin-2-amine | 0.18 mmol | CN(C=1OC2=CC3=C(CCNCC3)C=C2N1)C | C13H17N3O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | N,N-dimethyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepin-2-amine dihydrochloride | Cl.Cl.CN(C=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1)C | InChI=1S/C29H33N7OS.2ClH/c1-19-9-10-22-23(7-5-8-24(22)30-19)27-32-33-29(35(27)4)38-16-6-13-36-14-11-20-17-25-26(18-21(20)12-15-36)37-28(31-25)34(2)3;;/h5,7-10,17-18H,6,11-16H2,1-4H3;2*1H
